US07687491B2
(10b) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carboxaldehyde
To a solution of t-butyl[(4-ethyl-2-thienyl)methoxy]dimethylsilane (1.3 g, 5.6 mmol) that was obtained in Example 10 (10a) in tetrahydrofuran (10 ml) was slowly added a 1.6 M solution of n-butyllithium in hexane (4.2 ml, 6.7 mmol) at −78° C. with stirring, and after raising the reaction temperature to 0° C., the resulting mixture was stirred for 30 minutes. Subsequently, the reaction temperature was lowered to −78° C. again under stirring, and to the reaction mixture was added N,N-dimethylformamide (0.86 ml, 11 mmol) with stirring, and the resulting mixture was stirred for 30 minutes. After stirring, a saturated aqueous solution of ammonium chloride (5 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (20 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 5:95) as the eluent to afford the title compound (1.3 g) in a yield of 86% as a pale yellow oily product.

reactant | t-butyl[(4-ethyl-2-thienyl)methoxy]dimethylsilane | 5.6 mmol, 1.3 g | C(C)(C)(C)[Si](C)(C)OCC=1SC=C(C1)CC | C13H24OSSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 6.7 mmol, 4.2 ml | CCCCCC | C6H14
reactant | N,N-dimethylformamide | 11 mmol, 0.86 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carboxaldehyde | yield of 86% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C=O)CC | C14H24O2SSi
